US05767285
4-(4-Acetylphenyl)-1-piperazinevaleric acid, methyl ester (15.3 mg) is suspended in 0.1 mL of potassium hydroxide solution (33.2 mg/mL). After heating at 100° C. for 150 min, the starting material is completely dissolved and absent by TLC (10% MeOH/CH2Cl2). After acidifying the reaction solution to pH 4 by adding 0.2N HCl, the aqueous solution is extracted with methylene chloride. After evaporation of the organic layer to dryness, the residue is dissolved in methylene chloride and filtered. Evaporation of the organic layer gives 7 mg of 4-(4-acetylphenyl)-1-piperazinevaleric acid as a white solid. 1H-NMR (CDCl3) spectrum is consistant with the assigned structure. MS (FAB) m/e 305 (M+ +H), 327 (M+ +Na), 348 (M+ +2Na--H).

reactant | 4-(4-Acetylphenyl)-1-piperazinevaleric acid, methyl ester | 15.3 mg | C(C)(=O)C1=CC=C(C=C1)N1CCN(CC1)CCCCC(=O)OC | C18H26N2O3
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
reactant | HCl | 0.2N | Cl | ClH
solvent | potassium hydroxide | 0.1 mL | [OH-].[K+]
product | 4-(4-acetylphenyl)-1-piperazinevaleric acid | 7 mg | C(C)(=O)C1=CC=C(C=C1)N1CCN(CC1)CCCCC(=O)O | C17H24N2O3
